US07629294B2
[5-Chloro-6-(3-methylthiophen-2-yl)-3-oxazol-2-ylpyrazolo[1,5-α]pyrimidin-7-yl](1,2-dimethyl-propyl)amine
0.95 g (2.5 mmol) of 5-chloro-7-(1,2-dimethylpropylamino)-6-(3-methylthiophen-2-yl)pyrazolo-[1,5-α]pyrimidine-3-carboxamide was dissolved in 25 ml of ethanol, and 1.0 g (6.5 mmol) of chloroacetaldehyde diethyl acetal was added. The mixture was stirred for 3 hours at 120° C. and 15 bar in a microwave oven (200 W). The reaction mixture was then concentrated under reduced pressure, and the residue that remained was chromatographed on silica gel using a mixture of cyclohexane:ethyl acetate=1:1. This gave 0.3 g of [5-chloro-6-(3-methylthiophen-2-yl)-3-oxazol-2-yl-pyrazolo[1,5-α]pyrimidin-7-yl](1,2-dimethylpropyl)amine (logPs=4.3; content according to HPLC: 98%)

reactant | 5-chloro-7-(1,2-dimethylpropylamino)-6-(3-methylthiophen-2-yl)pyrazolo-[1,5-α]pyrimidine-3-carboxamide | 2.5 mmol, 0.95 g | ClC1=NC=2N(C(=C1C=1SC=CC1C)NC(C(C)C)C)N=CC2C(=O)N | C17H20ClN5OS
reactant | chloroacetaldehyde diethyl acetal | 6.5 mmol, 1.0 g | C(C)OC(CCl)OCC | C6H13ClO2
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | [5-Chloro-6-(3-methylthiophen-2-yl)-3-oxazol-2-ylpyrazolo[1,5-α]pyrimidin-7-yl](1,2-dimethyl-propyl)amine | ClC1=NC=2N(C(=C1C=1SC=CC1C)NC(C(C)C)C)N=CC2C=2OC=CN2 | C19H20ClN5OS
